datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[N+:21](N)(CCC)[H:20].CCP(=O)(CC)[O-:10]>>CCC[N:21](N)CCC.CCP(=O)(CC)[O:10][H:20] 10=20;20,21=21",
"CN1c2ccccc2Nc2c1cccc2[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN1c2ccccc2Nc2c1cccc2[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)C1CCn2nnnc2C(C(=O)[O-:10])C1.CC[N+:21](CC)(CC(=O)NC1CCCCC1)[H:20]>>CC(C)(C)C1CCn2nnnc2C(C(=O)[O:10][H:20])C1.CC[N:21](CC)CC(=O)NC1CCCCC1 10=20;20,21=21",
"COc1cc(C[NH2:10])ccc1O.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1cc(C[NH2+:10][H:20])ccc1O.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[Se](C)=[O:10].O=[N+]([O-])c1ccc([NH2+:21][H:20])cc1F>>C[Se](C)=[O+:10][H:20].O=[N+]([O-])c1ccc([NH2:21])cc1F 10=20;20,21=21",
"Clc1ccc([O-:10])c2ccccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1ccc([O:10][H:20])c2ccccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n+:21]([H:20])cc1.c1ccc2c(c1)CC([NH2:10])C2>>CN(C(=O)c1ccccc1)c1cc[n:21]cc1.c1ccc2c(c1)CC([NH2+:10][H:20])C2 10=20;20,21=21",
"CC1(C)CCC(=O)N1[O:21][H:20].C[n+]1cnc2c(ncc([O-])[n:10]2)c1[O-]>>CC1(C)CCC(=O)N1[O-:21].C[n+]1cnc2c(ncc([O-])[n+:10]2[H:20])c1[O-] 10=20;20,21=21",
"Cn1ccnc1C[S:21][H:20].Nc1ccc(P(=O)(OCC(F)(F)F)[N-:10]c2nccs2)cc1>>Cn1ccnc1C[S-:21].Nc1ccc(P(=O)(OCC(F)(F)F)[N:10](c2nccs2)[H:20])cc1 10=20;20,21=21",
"Nc1c([O-])cccc1[O:21][H:20].OCC(C[S-])[S-:10]>>Nc1c([O-])cccc1[O-:21].OCC(C[S-])[S:10][H:20] 10=20;20,21=21",
"CN(C)c1ccc(C(=S)[N-:10]c2ccccc2)cc1.Cc1cc(Cl)ccc1C(=O)[O:21][H:20]>>CN(C)c1ccc(C(=S)[N:10](c2ccccc2)[H:20])cc1.Cc1cc(Cl)ccc1C(=O)[O-:21] 10=20;20,21=21",
"CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@H]([NH3+])C(=O)[O-])N2[C@@H]1C(=O)[O-:10].COc1ccc(S(=O)(=O)NCCC[N+:21]2([H:20])CCOCC2)c(OC)c1OC>>CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@H]([NH3+])C(=O)[O-])N2[C@@H]1C(=O)[O:10][H:20].COc1ccc(S(=O)(=O)NCCC[N:21]2CCOCC2)c(OC)c1OC 10=20;20,21=21",
"CON=C(C)CC(C)(C)[NH:10]CC[NH2+]C(C)(C)CC(C)=NO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CON=C(C)CC(C)(C)[NH+:10](CC[NH2+]C(C)(C)CC(C)=NO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1c(CCl)nc2c([O:21][H:20])ccc(O)c21.c1ccc2ncc([S-:10])cc2c1>>Cn1c(CCl)nc2c([O-:21])ccc(O)c21.c1ccc2ncc([S:10][H:20])cc2c1 10=20;20,21=21",
"O=S(=O)(C(F)(F)F)[N-:10]c1ccc(Cl)cc1.c1c[nH+]c2ccc([NH2+:21][H:20])cc2c1>>O=S(=O)(C(F)(F)F)[N:10](c1ccc(Cl)cc1)[H:20].c1c[nH+]c2ccc([NH2:21])cc2c1 10=20;20,21=21",
"O=Cc1ccc([O-:10])cc1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=Cc1ccc([O:10][H:20])cc1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccc[n:10]c1.[O-]c1nc2nc[nH]c2c[n+:21]1[H:20]>>CCc1ccc[n+:10]([H:20])c1.[O-]c1nc2nc[nH]c2c[n:21]1 10=20;20,21=21",
"Cc1ccccc1[NH:10]C(C)(C)C.O=C([O-])C1(C(=O)[O:21][H:20])CC1>>Cc1ccccc1[NH+:10](C(C)(C)C)[H:20].O=C([O-])C1(C(=O)[O-:21])CC1 10=20;20,21=21",
"C[N+:21](C)(CC(Cl)CCl)[H:20].NC(=O)CCC(C(=O)O)[NH-:10]>>C[N:21](C)CC(Cl)CCl.NC(=O)CCC(C(=O)O)[NH:10][H:20] 10=20;20,21=21",
"Cc1[nH]c2ccc(C(=O)[O-])cc2[n+:21]1[H:20].c1ccc([NH:10]c2ccccc2)cc1>>Cc1[nH]c2ccc(C(=O)[O-])cc2[n:21]1.c1ccc([NH+:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"C#CCCCCC[NH2:10].CCCn1cc[n+:21]([H:20])c1C=O>>C#CCCCCC[NH2+:10][H:20].CCCn1cc[n:21]c1C=O 10=20;20,21=21",
"CC(C(=O)[O-:10])c1cccc(C(=O)c2ccccc2)c1.C[N+:21]1([H:20])CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3>>CC(C(=O)[O:10][H:20])c1cccc(C(=O)c2ccccc2)c1.C[N:21]1CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3 10=20;20,21=21",
"CN(C)c1cc[n+]([O:21][H:20])cc1.Cc1ccc(C(c2ccccc2)=[NH:10])c(C)c1>>CN(C)c1cc[n+]([O-:21])cc1.Cc1ccc(C(c2ccccc2)=[NH+:10][H:20])c(C)c1 10=20;20,21=21",
"COc1cc(C[NH3+])c(C)cc1[NH2:10].O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O:21][H:20]>>COc1cc(C[NH3+])c(C)cc1[NH2+:10][H:20].O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O-:21] 10=20;20,21=21",
"CN1C(=O)c2c(nc[n-:10]2)N=C1[O-].COc1ccc([N+:21](C)(CO)[H:20])cc1>>CN1C(=O)c2c(nc[n:10]2[H:20])N=C1[O-].COc1ccc([N:21](C)CO)cc1 10=20;20,21=21",
"Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH:10].O=S(=O)(Nc1nccc[n+:21]1[H:20])c1ccccc1>>Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH+:10][H:20].O=S(=O)(Nc1nccc[n:21]1)c1ccccc1 10=20;20,21=21",
"Clc1ccc(C2C[NH:10]2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1ccc(C2C[NH+:10]2[H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COCC[O-:10].N/C(NCc1ccccc1)=[S+:21]/[H:20]>>COCC[O:10][H:20].NC(NCc1ccccc1)=[S:21] 10=20;20,21=21",
"CC(CC(=O)[O-:10])C(N)=O.CCCC1=C(C)[N:21]([H:20])N(C2CC[NH+](C)CC2)C1=O>>CC(CC(=O)[O:10][H:20])C(N)=O.CCCC1=C(C)[N-:21]N(C2CC[NH+](C)CC2)C1=O 10=20;20,21=21",
"CCCCC(CC)C(=O)O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O.O=C1N/C(=[O+:21]\[H:20])NN1c1ccccc1>>CCCCC(CC)C(=O)O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O.O=C1NC(=[O:21])NN1c1ccccc1 10=20;20,21=21",
